*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXF630ARA101MJC5G
*//   Date        : 2022/09/28
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXF630ARA101MJC5G_20deg-C 1 2

C1 4 2 8.02e-05
C2 5 2 4.57e-06
C3 6 2 5.05e-06
R1 3 4 9.60e-03
R2 4 5 7.89e-01
R3 5 6 1.15e+01
L1 1 3 5.20e-09

.ENDS
*$
